US09085555B2
1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(2-hydroxy-ethoxy)-1H-indole-3-carboxylic acid amide
To a solution of (3-carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester Example 592 (30.0 mg, 0.049 mmol) in THF (1 mL) was added LiBH4 (2M in THF; 0.049 mL, 0.098 mmol) and stirring was continued at RT for 2 h. The reaction mixture was partitioned between CH2Cl2 and water, and the aqueous layer was extracted with CH2Cl2 (3×). The combined organics were dried (phase separator) and concentrated under reduced pressure. Purification by preparative HPLC (SunFire C18-ODB, 5 μm, 19×50 mm, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 20 mL/min) afforded after lyophilization of the purified fractions the desired compound as a white solid. MS: 535 [M+H]+; tR (HPLC conditions c): 3.72 min.

reactant | (3-carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester | COC(COC1=CC=C2C(=CN(C2=C1)CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(N)=O)=O | C26H25ClF2N4O6
reactant | LiBH4 | 0.098 mmol, 2M, 0.049 mL | [Li+].[BH4-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(2-hydroxy-ethoxy)-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)OCCO)C(=O)N)=O)C=CC1)F | C25H25ClF2N4O5
